US06806265B2
a) 4-(Methoxymethoxy)-3-methylbenzaldehyde
To a solution of 4-hydroxy-3-methylbenzaldehyde (900 mg, 6.61 mmol) in CH2Cl2 (19 mL) was added Et3N (5.90 mL, 42.3 mmol) and chloromethyl methyl ether (2.00 mL, 26.3 mmol). The reaction was stirred at 25° C. for 16 h. The reaction mixture was diluted with EtOAc and was successively washed with aqueous 1 N HCl solution, aqueous saturated NaHCO3 solution, water and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (Hexane:EtOAc, 4:1) to give the title compound (630 mg, 53% yield) as a clear oil.

reactant | 4-hydroxy-3-methylbenzaldehyde | 6.61 mmol, 900 mg | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | Et3N | 42.3 mmol, 5.90 mL | CCN(CC)CC | C6H15N
reactant | chloromethyl methyl ether | 26.3 mmol, 2.00 mL | COCCl | C2H5ClO
solvent | CH2Cl2 | 19 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(Methoxymethoxy)-3-methylbenzaldehyde | 630 mg, 53% yield | COCOC1=C(C=C(C=O)C=C1)C | C10H12O3
